US07642277B2
a) 2-Bromo-N-(2-nitrophenyl)acetamide
2-Bromoacetyl bromide (173 μL, 1.99 mmol) was added dropwise to a solution of 2-nitroaniline (250 mg, 1.81 mmol) and pyridine (293 μL) in CH2Cl2 (9 mL). The reaction mixture was stirred at room temperature for 45 min. The mixture was then diluted with CH2Cl2 (10 mL), washed with aqueous 1 N HCl solution (10 mL), water (10 ml) and brine (10 mL). The organic layer was dried (Na2SO4), filtered and concentrated under reduced pressure to yield the title compound (431 mg, 92% yield) as an orange solid.

reactant | 2-Bromoacetyl bromide | 1.99 mmol, 173 μL | BrCC(=O)Br | C2H2Br2O
reactant | 2-nitroaniline | 1.81 mmol, 250 mg | [N+](=O)([O-])C1=C(N)C=CC=C1 | C6H6N2O2
reactant | pyridine | 293 μL | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 9 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-Bromo-N-(2-nitrophenyl)acetamide | 431 mg, 92% yield | BrCC(=O)NC1=C(C=CC=C1)[N+](=O)[O-] | C8H7BrN2O3
